US05817670
4-(3-Chlorophenyl)-1-cyclopropyl-5,7-dimethyl-1,8-naphthyridin-2(1H)-one
Starting compounds: 6-amino-4-(3-chlorophenyl)-1-cyclopropyl-2(1H)-pyridone and acetylacetone

reactant | 6-amino-4-(3-chlorophenyl)-1-cyclopropyl-2(1H)-pyridone | NC1=CC(=CC(N1C1CC1)=O)C1=CC(=CC=C1)Cl | C14H13ClN2O
reactant | acetylacetone | C(C)(=O)CC(C)=O | C5H8O2
product | 4-(3-Chlorophenyl)-1-cyclopropyl-5,7-dimethyl-1,8-naphthyridin-2(1H)-one | ClC=1C=C(C=CC1)C1=CC(N(C2=NC(=CC(=C12)C)C)C1CC1)=O | C19H17ClN2O
